US05679696
A solution of 3-benzoyloxy-4-methoxybenzenesulfonic acid (7.69 g) in dry toluene (70 mL) is treated with thionyl chloride (9 mL), and ,the mixture is heated at reflux for 6 hours. Concentration gives 3-benzoyloxy-4-methoxybenzenesulfonyl chloride (8.4 g), in the form of a brown oil.

reactant | 3-benzoyloxy-4-methoxybenzenesulfonic acid | 7.69 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1OC)S(=O)(=O)O | C14H12O6S
reactant | thionyl chloride | 9 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 3-benzoyloxy-4-methoxybenzenesulfonyl chloride | 8.4 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1OC)S(=O)(=O)Cl | C14H11ClO5S
